US07538114B2
A solution of (S)-tert-butyl 2-(4-benzhydryl-2-methylpiperazin-1-yl)acetate (340 mg, 894 μmol) in 3 mL of 1,4-dioxane and 1 mL of concentrated HCl solution (37%) was stirred at rt overnight. The solvent was evaporated to dryness and the residue was crashed out of ether to give (S)-2-(4-benzhydryl-2-methylpiperazin-1-yl)acetic acid dihydrochloride as a white solid. MS (ESI, pos. ion) m/z: 325 (M+1).

reactant | (S)-tert-butyl 2-(4-benzhydryl-2-methylpiperazin-1-yl)acetate | 894 μmol, 340 mg | C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C[C@@H](N(CC1)CC(=O)OC(C)(C)C)C | C24H32N2O2
reactant | HCl | 1 mL | Cl | ClH
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | (S)-2-(4-benzhydryl-2-methylpiperazin-1-yl)acetic acid dihydrochloride | Cl.Cl.C(C1=CC=CC=C1)(C1=CC=CC=C1)N1C[C@@H](N(CC1)CC(=O)O)C | InChI=1S/C20H24N2O2.2ClH/c1-16-14-22(13-12-21(16)15-19(23)24)20(17-8-4-2-5-9-17)18-10-6-3-7-11-18;;/h2-11,16,20H,12-15H2,1H3,(H,23,24);2*1H/t16-;;/m0../s1
